US07872003B2
A mixture of 4-morpholin-4-yl-2-[3-(1,1,2,2-tetramethyl-propylsilanyloxy)-phenyl]-thieno[3,2-d]pyrimidine-6-carbaldehyde (6.67 g, 14.66 mmol), N-methylpiperazine (2.11 mL, 1.3 equivalents) and acetic acid (838 μL, 1.0 eq.) was stirred in 1,2-dichloroethane (70 mL) at room temperature. To this was added sodium triacetoxyborohydride (3.42 g, 1.1 equivalents) and the reaction mixture was stirred for 3 days. The reaction mixture was then quenched with aqueous sodium bicarbonate solution, extracted exhaustively with chloroform, dried (MgSO4), and the solvent removed in vacuo to yield a yellow oil. This was purified using flash chromatography (silica, ethyl acetate to ethyl acetate/methanol) to yield 6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-2-[3-(1,1,2,2-tetramethyl-propylsilanyloxy)-phenyl]-thieno[3,2-d]pyrimidine (6.95 g, 88%).

reactant | 4-morpholin-4-yl-2-[3-(1,1,2,2-tetramethyl-propylsilanyloxy)-phenyl]-thieno[3,2-d]pyrimidine-6-carbaldehyde | 14.66 mmol, 6.67 g | N1(CCOCC1)C=1C2=C(N=C(N1)C1=CC(=CC=C1)O[SiH2]C(C(C)(C)C)(C)C)C=C(S2)C=O | C24H31N3O3SSi
reactant | N-methylpiperazine | 2.11 mL, 1.3 equivalents | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 838 μL, 1.0 eq. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.42 g, 1.1 equivalents | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 70 mL | ClCCCl | C2H4Cl2
product | 6-(4-methyl-piperazin-1-ylmethyl)-4-morpholin-4-yl-2-[3-(1,1,2,2-tetramethyl-propylsilanyloxy)-phenyl]-thieno[3,2-d]pyrimidine | 6.95 g, 88% | CN1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=CC(=CC=C1)O[SiH2]C(C(C)(C)C)(C)C | C29H43N5O2SSi
